US07642270B2
8-Cyclohexyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (20 mg, 0.051 mmol) and 4-(4-methyl-piperazin-1-yl)-phenylamine (10 mg, 0.051 mmol) were combined in i-PrOH (2 mL) and heated to 80° C. After 14 h, the solution was concentrated and purified by preparative HPLC (30 mL/min 0-100% H2O/MeCN gradient over 10 min) to provide 7.2 mg (29%) of 8-cyclohexyl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester. 1H-NMR (400 MHz, CDCl3:) δ ppm 9.32 (s, 1H), 8.31 (s, 1H), 7.57 (d, 2H, J=9.0 Hz), 6.96 (d, 1H, J=8.9 Hz), 4.40 (q, 2H, J=7.1 Hz), 3.25-3.46 (m, 8H), 2.82-2.84 (m, 3H), 1.49-2.0 (m, 8H), 1.41 (t, 3H, J=7.1 Hz). Mass Spectrum (LCMS, ESI pos.) Calcd. For C27H34N6O3: 490.27, found: (M+H) 491.3.

reactant | 8-Cyclohexyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.051 mmol, 20 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C1CCCCC1)=O | C17H21N3O5S
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.051 mmol, 10 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | i-PrOH | 2 mL | CC(C)O | C3H8O
product | 8-cyclohexyl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 7.2 mg, 29% | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NC2=CC=C(C=C2)N2CCN(CC2)C)N(C1)C1CCCCC1)=O | C27H34N6O3
